US06417214B1
5-Bromo-3,3-diethyl-2-methyl-2,3-dihydro-1H-indole
This compound was prepared according to the procedure for Example 1 using 4-bromo-phenyl hydrazine hydrochloride (5.9 g, 26.3 mmol) and 3-ethyl-2-pentanone (3.0 g, 26.3 mmol). The subtitled compound (4.5 g) was obtained in 65% yield as a yellowish oil: 1H-NMR (CDCl3) δ0.81 (t, J=7.4 Hz, 3H), 0.83 (t, J=7.4 Hz, 3H), 1.18 (d, J=6.5 Hz, 3H), 1.42 (dq, J=14.0, 7.4 Hz, 1H), 1.66 (dq, J=14.0, 7.4 Hz, 3H), 3.73 (q, J=6.5 Hz, 1H), 6.47 (d, J=8.2 Hz, 1H), 7.02 (d, J=2 Hz, 1H), 7.09 (dd, J=8.2, 2.0Hz, 1H); 13C-NMR (CDCl3) δ10.46, 10.66, 17.70 (q), 26.5, 29.67 (t), 52.25 (s), 64.80 (d), 111.64 (s), 112.41, 129.07, 131.58 (d), 139.57, 151.04 (s); MS (EI) m/z 268, 270 (M+H)+.

reactant | 4-bromo-phenyl hydrazine hydrochloride | 26.3 mmol, 5.9 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 3-ethyl-2-pentanone | 26.3 mmol, 3.0 g | C(C)C(C(C)=O)CC | C7H14O
product | 5-Bromo-3,3-diethyl-2-methyl-2,3-dihydro-1H-indole | 4.5 g, 65% yield | BrC=1C=C2C(C(NC2=CC1)C)(CC)CC | C13H18BrN
